US06187802B1
A suspension of 1-[1-(4-chlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide (3.4 g; prepared in a similar manner to that described above) in acetic acid (8.5 ml) was heated under reflux for 16 hours, then allowed to cool to ambient temperature. The solvent was removed in vacuo, the residue was triturated with ether (50 ml), and the resulting solid was collected by filtration, washed with ether (50 ml), and dried in vacuo at ambient temperature to give 3-[1-(4-chlorophenyl)cyclobutyl]-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide as a white solid (3.0 g), m.p. 256° C.

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide | Br.ClC1=CC=C(C=C1)C1(CCC1)C(CSC1=NCCCN1)=O
solvent | acetic acid | 8.5 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(4-chlorophenyl)cyclobutyl]-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide | 3.0 g | Br.ClC1=CC=C(C=C1)C1(CCC1)C1=CSC=2N1CCCN2 | InChI=1S/C16H17ClN2S.BrH/c17-13-5-3-12(4-6-13)16(7-1-8-16)14-11-20-15-18-9-2-10-19(14)15;/h3-6,11H,1-2,7-10H2;1H
